US06503903B1
a) N,4-Dimethyl-N-[(1-methyl-1H-indol-2-yl)methyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide
According to the procedure of Example 8, except using tert-butyl 4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylate (0.60 g, 2.2 mmole), 1-methyl-2-(methylaminomethyl)indole (0.35 g, 2.2 mmole), Et3N (0.62 mL, 4,4 mmole), HOBt.H2O (0.30 g, 2.2 mmole), and EDC.HCl (0.42 g, 2.2 mmole), the title compound (0.76 g, 92%) was prepared as an off-white solid following flash chromatography on silica gel (5% MeOH/CHCl3): MS (ES) m/e 377.0 (M+H)+.

reactant | tert-butyl 4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylate | 2.2 mmole, 0.60 g | CN1C(CNC2=C(C1)C=C(C=C2)C(=O)OC(C)(C)C)=O | C15H20N2O3
reactant | 1-methyl-2-(methylaminomethyl)indole | 2.2 mmole, 0.35 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | Et3N | 4,4 mmole, 0.62 mL | CCN(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 2.2 mmole, 0.30 g | O | H2O
reactant | EDC.HCl | 2.2 mmole, 0.42 g | CCN=C=NCCCN(C)C.Cl
product | N,4-Dimethyl-N-[(1-methyl-1H-indol-2-yl)methyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide | 0.76 g, 92% | CN(C(=O)C=1C=CC2=C(CN(C(CN2)=O)C)C1)CC=1N(C2=CC=CC=C2C1)C | C22H24N4O2
